US03932424
N-ETHYL-3,6-CARBAZOLEDIOL DIACETATE
To a solution of 104 g (0.37 mole) of 3,6-diacetyl-N-ethylcarbazole in 1700 ml of chloroform (hydrocarbon stabilized) previously cooled to 15°C was added 138 g (0.8 mole) of m-chloroperbenzoic acid. The reaction was stirred at room temperature for 4 days, then filtered. The filtrate was washed with saturated sodium bicarbonate solution and with water, then dried over anhydrous magnesium sulfate and evaporated to dryness in vacuo leaving a solid which was recrystallized from acetone-water and then from acetone methanol to give the desired product. M.P. 138°-139°C, λmaxEtOH 237, E1cm1% 1330.

reactant | 3,6-diacetyl-N-ethylcarbazole | 0.37 mole, 104 g | C(C)(=O)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C(C)=O)CC | C18H17NO2
reactant | m-chloroperbenzoic acid | 0.8 mole, 138 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 1700 ml | C(Cl)(Cl)Cl | CHCl3
product | N-ETHYL-3,6-CARBAZOLEDIOL DIACETATE | C(C)(=O)OC=1C=CC=2N(C3=CC=C(C=C3C2C1)OC(C)=O)CC | C18H17NO4
